US04004026
A vigorous stream of ammonia gas is passed into a solution of 9 g of 5-cycloheptyl-6-chloro-1-indanecarboxylic acid chloride in 150 ml of absolute benzene at 20° C, for 30 minutes, whilst cooling and stirring. The crude amide which precipitates is filtered off, thoroughly washed with water and dried. Two crystallisations from ethanol yield pure 5-cycloheptyl-6-chloro-1-indanecarboxylic acid amide; melting point 170°-171° C.

reactant | ammonia | N | H3N
reactant | 5-cycloheptyl-6-chloro-1-indanecarboxylic acid chloride | 9 g | C1(CCCCCC1)C=1C=C2CCC(C2=CC1Cl)C(=O)Cl | C17H20Cl2O
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 5-cycloheptyl-6-chloro-1-indanecarboxylic acid amide | C1(CCCCCC1)C=1C=C2CCC(C2=CC1Cl)C(=O)N | C17H22ClNO
